US08357711B2
3-Cyclopropylmethoxymethyl-pyrrolidine
tert-Butyl 3-[(cyclopropylmethoxy)methyl]pyrrolidine-1-carboxylate (Preparation 66, 50 g, 0.2 mol, 1 eq) was dissolved in isopropanol (200 mL) and treated with concentrated hydrogen chloride solution (28 mL, 0.3 mol, 1.5 eq). The mixture was refluxed for 1 h and evaporated. The residue was dissolved in water and washed with ether (2×100 mL). The aqueous fraction was made alkaline with potassium carbonate to pH 12-13 and extracted with chloroform. The extract was dried over sodium sulfate and evaporated to give title compound (20 g, 0.129 mol, 65%).

reactant | tert-Butyl 3-[(cyclopropylmethoxy)methyl]pyrrolidine-1-carboxylate | 0.2 mol, 50 g, 1 eq | C1(CC1)COCC1CN(CC1)C(=O)OC(C)(C)C | C14H25NO3
reactant | hydrogen chloride | 0.3 mol, 28 mL, 1.5 eq | Cl | ClH
solvent | isopropanol | 200 mL | C(C)(C)O | C3H8O
product | 3-Cyclopropylmethoxymethyl-pyrrolidine | 0.129 mol, 20 g, 65% | C1(CC1)COCC1CNCC1 | C9H17NO
